US03957791
A mixture of 5.05 g. of 2-chloroquinoline, 5.5 g. of bis(2-hydroxyethyl)aminopropylamine and 3.0 g. of sodium carbonate is heated in 20 ml. of refluxing isopropanol for 24 hours. The reaction mixture is then filtered, solvent removed in vacuo and the residue chromatographed over silica gel to obtain an oil of 2-[3-bis(2-hydroxyethyl)aminopropyl]amino-quinoline.

reactant | 2-chloroquinoline | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | bis(2-hydroxyethyl)aminopropylamine | OCCN(CCO)CCCN | C7H18N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-[3-bis(2-hydroxyethyl)aminopropyl]amino-quinoline | OCCN(CCCNC1=NC2=CC=CC=C2C=C1)CCO | C16H23N3O2
